US08258144B2
N-(4-(4-(5-aminopentylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide
A mixture of N-(5-aminopentyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-amine (79 mg, 0.31 mmol), N-(4-aminophenyl)-N-methylacetamide (100 mg, 0.61 mmol) and trimethylsilyl chloride (0.150 mL, 1.19 mmol) in nBuOH (2 mL) was heated at 116° C. for 4 h. The mixture was then purified by HPLC to give the titled compound (9 mg). MS 382.2 (M+H); UV 210.8, 267.5, 305.5 nm.

reactant | N-(5-aminopentyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.31 mmol, 79 mg | NCCCCCNC=1C2=C(N=C(N1)Cl)NC=C2 | C11H16ClN5
reactant | N-(4-aminophenyl)-N-methylacetamide | 0.61 mmol, 100 mg | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
reactant | trimethylsilyl chloride | 1.19 mmol, 0.150 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | N-(4-(4-(5-aminopentylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide | 9 mg | NCCCCCNC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N(C(C)=O)C)NC=C2 | C20H27N7O
